US04642322
80.8 parts of isatoic anhydride are introduced into 125 parts of dimethylacetamide, and a solution of 134.7 parts of stearylamine in 50 parts of dimethylformamide is added dropwise. When the evolution of CO2 has ended (3 hours) the resulting clear solution is stirred into 2 liters of H2O and the resulting precipitate is recrystallised from ethanol, using active charcoal. Anthranilic acid stearylamide of melting point 89°-90° C. is obtained.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | stearylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | CO2 | C(=O)=O | CO2
solvent | H2O | 2 liters | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Anthranilic acid stearylamide | C(CCCCCCCCCCCCCCCCC)NC(C=1C(N)=CC=CC1)=O | C25H44N2O
